US07851474B2
Step 3. Preparation of 2-benzyl-2′,3′-dihydro-1′H-spiro[isoindole-1,4′-pyridin]-3(2H)-one
To solution of tert-butyl 2-benzyl-3-oxo-2,2′,3,3′-tetrahydro-1′H-spiro[isoindole-1,4′-pyridine]-1′-carboxylate (4 mmol) in dioxane (10 ml) is added HCl solution in dioxane (4N, 15 ml, 60 mmol) and the mixture is stirred at rt overnight. The solvent is removed and to the residue is added aqueous NaHCO3 solution (30 ml) and EtOAc (30 ml). The layers are separated and the aqueous layer is extracted with EtOAc (30 ml). The combined extracts are washed with brine (30 ml), dried over Na2SO4 and evaporated. The residue is purified by flash column to give the title compound as an off-white solid.

reactant | tert-butyl 2-benzyl-3-oxo-2,2′,3,3′-tetrahydro-1′H-spiro[isoindole-1,4′-pyridine]-1′-carboxylate | 4 mmol | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C12CCN(C=C2)C(=O)OC(C)(C)C)=O | C24H26N2O3
reactant | HCl | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 mmol, 4N, 15 ml | O1CCOCC1 | C4H8O2
product | 2-benzyl-2′,3′-dihydro-1′H-spiro[isoindole-1,4′-pyridin]-3(2H)-one | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C12CCNC=C2)=O | C19H18N2O
